US06436923B1
G. 2-(4-Fluorophenyl)-1-(4-[2-(1-methyl(2-piperidyl))ethoxy]benzyl)-1,2,3,4-tetrahydroisoquinolin-6-ol
The title compound was prepared as described in Example 44.G, using 2-(4-fluorophenyl)-1-(4-[2-(1-methyl(2-piperidyl))ethoxy]benzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline (0.043 g, 0.076 mmol). The product was purified by radial chromatography (100% CH2Cl2, then CH2Cl2/MeOH, 95:5) to yield the title compound (0.005 g, 14 % yield): ES-MS (m/z) 475 [M+H]+.

reactant | 2-(4-fluorophenyl)-1-(4-[2-(1-methyl(2-piperidyl))ethoxy]benzyl)-6-(phenylmethoxy)-1,2,3,4-tetrahydroisoquinoline | 0.076 mmol, 0.043 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)OCCC1N(CCCC1)C | C37H41FN2O2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | 2-(4-Fluorophenyl)-1-(4-[2-(1-methyl(2-piperidyl))ethoxy]benzyl)-1,2,3,4-tetrahydroisoquinolin-6-ol | 0.005 g, 14 % yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)O)CC1=CC=C(C=C1)OCCC1N(CCCC1)C | C30H35FN2O2
